US06911468B2
(3) Ethyl (2R)-2-(4-{1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate
To a solution of 4-{1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenol (910 mg, 2.29 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (667 mg, 3.44 mmol) and triphenylphosphine (901 mg, 3.44 mmol) in toluene (2 ml) was added 1,1′-(azodicarbonyl)dipiperidine (867 mg, 3.44 mmol) and the mixture was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate anhydride, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 680 mg (yield: 51.5%)

reactant | 4-{1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenol | 2.29 mmol, 910 mg | C(C1=CC=CC=C1)C1=CC=C(OCCCN2C(=CC=C2C)C2=CC=C(C=C2)O)C=C1 | C27H27NO2
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 3.44 mmol, 667 mg | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 3.44 mmol, 901 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.44 mmol, 867 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl (2R)-2-(4-{1-[3-(4-benzylphenoxy)propyl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate | yield: 51.5% | C(C1=CC=CC=C1)C1=CC=C(OCCCN2C(=CC=C2C)C2=CC=C(O[C@@H](C(=O)OCC)CC3=CC=CC=C3)C=C2)C=C1 | C38H39NO4
